US09193745B2
Synthesis of 4-isopropyldibenzo[b,d]furan:
4-(Prop-1-en-2-yl)dibenzo[b,d]furan (14.5 g, 69.6 mmol) was added to a hydrogenator bottle with EtOH (100 mL). The reaction mixture was degassed by bubbling N2 for 10 minutes. Pd/C (1.14 g, 1.39 mmol) and PVC (2.72 g, 0.7 mmol) was added. The reaction mixture was placed on a Parr hydrogenator for 2 hours (H2˜72 psi, based on calculations). The reaction mixture was filtered on a tightly packed Celite® bed and washed with dichloromethane. GC/MS confirmed complete conversion. The crude product was chromatographed on silica gel with 2% DCM in hexane (v/v) to yield 10.9 g (74%) of the desired product. The product was confirmed by GC/MS.

reactant | 4-(Prop-1-en-2-yl)dibenzo[b,d]furan | 69.6 mmol, 14.5 g | C=C(C)C1=CC=CC2=C1OC1=C2C=CC=C1 | C15H12O
catalyst | Pd/C | 1.39 mmol, 1.14 g | [Pd] | Pd
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-isopropyldibenzo[b,d]furan | 10.9 g, 74% | C(C)(C)C1=CC=CC2=C1OC1=C2C=CC=C1 | C15H14O
